US07858796B2
(12) 5-bromo-1H-indole-7-carboxamide
To a solution of 5-bromo-1H-indole-7-carboxylic acid (10.0 g, 42 mmol) in CH2Cl2 (100 mL) at room temperature, EDC (9.66 g, 50.4 mmol), HOBt (6.81 g, 50.4 mmol) and NH3 (2.0 M in MeOH, 84 mL, 168 mmol) were added. The reaction mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the residue partitioned between ethyl acetate (100 mL) and water (100 mL). The water layer was extracted with ethyl acetate (100 mL×2) and the combined organic phase was dried over MgSO4 and concentrated to give the crude product (10 g, 98%). This crude product was used directly in the next step without further purification.

reactant | 5-bromo-1H-indole-7-carboxylic acid | 42 mmol, 10.0 g | BrC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6BrNO2
reactant | EDC | 50.4 mmol, 9.66 g
reactant | HOBt | 50.4 mmol, 6.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 168 mmol, 2.0 M, 84 mL | N | H3N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-1H-indole-7-carboxamide | 10 g, 98% | BrC=1C=C2C=CNC2=C(C1)C(=O)N | C9H7BrN2O
